US08871790B2
Compound 196.1. Methyl 2-isopropyl-4-methylbenzoate
To a stiffed mixture of dibromozinc (39.0 g, 173 mmol, 4.00 equiv) in THF (500 mL) under nitrogen at −48° C. was added dropwise isopropylmagnesium bromide (3 M in THF, 170 mmol) over a period of 30 min Pd(dppf)Cl2 (0.5 g, 0.05 equiv) and methyl 2-bromo-4-methylbenzoate (10.0 g, 43.7 mmol, 1.00 equiv) were added to the above reaction mixture. After stirring for 1 h at −48° C., the reaction mixture was quenched by the careful addition of 500 mL of NH4Cl (aq.). The resulting mixture was extracted with 3×500 mL of ethyl acetate. The combined organic layers were washed with 3×500 mL of brine and concentrated in vacuo. The residue was purified using silica gel column chromatography with petroleum ether (1:1) as eluent. This resulted in 6.50 g (77%) of methyl 2-isopropyl-4-methylbenzoate as a yellow oil.

reactant | isopropylmagnesium bromide | 170 mmol, 3 M | C(C)(C)[Mg]Br
reactant | methyl 2-bromo-4-methylbenzoate | 43.7 mmol, 10.0 g, 1.00 equiv | BrC1=C(C(=O)OC)C=CC(=C1)C | C9H9BrO2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | dibromozinc | 173 mmol, 39.0 g, 4.00 equiv | Br[Zn]Br
catalyst | Pd(dppf)Cl2 | 0.5 g, 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 2-isopropyl-4-methylbenzoate | C(C)(C)C1=C(C(=O)OC)C=CC(=C1)C | C12H16O2
